US06313312B1
3-Hexyl-6-(3-nitrophenyl)-2,4-dioxo-3-azabicyclo[3.1.0]hexane-6-carbonitrile
A solution of 2-chloro-2-(3-nitrophenyl)acetonitrile (Preparation 112, 103 mg, 0.524 mmol) and 1-hexyl-1H-pyrrole-2,5-dione (Preparation 56, 79 mg, 0.436 mmol) in N,N-dimethylformamide (2 ml) was added dropwise over 30 min to a stirred slurry of potassium carbonate (120 mg, 0.868 mmol) and sodium iodide (33 mg, 0.22 mmol) in N,N-dimethylformamide (4 ml) and water (0.1 ml) at 0° C. The reaction mixture was stirred for 30 min at 0° C. and then allowed to warm to room temperature. After stirring at room temperature for 2 h the mixture was diluted with water (10 ml) and extracted with ethyl acetate (3×5 ml). The combined organic phases were dried (MgSO4) and concentrated in vacuo to give a residue which was purified by column chromatography on silica gel eluting with hexane:ethyl acetate (5:1 and then 3:1). This gave the title compound as brown needles (47 mg, 32%).

reactant | 2-chloro-2-(3-nitrophenyl)acetonitrile | 0.524 mmol, 103 mg | ClC(C#N)C1=CC(=CC=C1)[N+](=O)[O-] | C8H5ClN2O2
reactant | 1-hexyl-1H-pyrrole-2,5-dione | 0.436 mmol, 79 mg | C(CCCCC)N1C(C=CC1=O)=O | C10H15NO2
reactant | potassium carbonate | 0.868 mmol, 120 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.22 mmol, 33 mg | [I-].[Na+]
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | water | 0.1 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 3-Hexyl-6-(3-nitrophenyl)-2,4-dioxo-3-azabicyclo[3.1.0]hexane-6-carbonitrile | 47 mg, 32% | C(CCCCC)N1C(C2C(C2C1=O)(C#N)C1=CC(=CC=C1)[N+](=O)[O-])=O | C18H19N3O4
